US05459137
1-[4-(4-Carboxybutyrylamino)phenyl]-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine
A solution of 0.50 g (1.7 mmol) of 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine in 30 ml of anhydrous dichloromethane was stirred with 0.18 g (1.87 mmol) of glutaric acid anhydride at 20°-25° C. for 6 hours. Next day he crystals formed were filtered at 0°-5° C., washed with 3×2 ml of dichloromethane and dried at 60°-80° C. to give 0.60 g (87.0%) or the pure aimed product, m.p. 225°-227° C. (decomp.).

reactant | 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 1.7 mmol, 0.50 g | NC1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C | C17H15N3O2
reactant | glutaric acid anhydride | 1.87 mmol, 0.18 g | C1(CCCC(=O)O1)=O | C5H6O3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-[4-(4-Carboxybutyrylamino)phenyl]-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | C(=O)(O)CCCC(=O)NC1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C | C22H21N3O5
